US06660738B2
(2S,4R)-6-Methyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine-4-carboxylic acid methyl ester was hydrolyzed following the general method for hydrolysis of an ester (ETOH/dioxane) to give (2S,4R)-6-Methyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine-4-carboxylic acid, MS: 656 (MH+).

reactant | (2S,4R)-6-Methyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)C)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C38H34F3N3O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,4R)-6-Methyl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine-4-carboxylic acid | CC1=CC(=NC(=N1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F)C(=O)O | C37H32F3N3O3S
